* C:\Users\caleb\Documents\GitHub\ece-capstone-2024\SimpleSim.asc
R1 N001 0 5k
M1 N003 N001 Out Out PSMN0R925YLD
M2 Out N004 0 0 PSMN0R925YLD
A1 N001 0 0 0 0 N004 0 0 BUF
R2 N003 N002 1k
V1 N001 0 PULSE(0 5 0 1n 1n 0.05 0.1 0)
V2 N002 0 11.1
M3 N003 N004 Out- Out- PSMN0R925YLD
M4 Out- N001 0 0 PSMN0R925YLD
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\caleb\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0.5
.backanno
.end
